US07488818B2
Tetrabutylphosphonium benzoate is also prepared in the following way. A solution of tetrabutylphosphonium hydroxide (4.7 g; 40% in water) is prepared. Then benzoic acid (0.8 g) is added, and the reaction solution is stirred at room temperature for 5 hours. The water is then removed in a rotary evaporator, and the residue is taken up in toluene. The toluene is removed in a rotary evaporator, and the residue is again taken up in toluene. This procedure is repeated 4-5 times. The solvent is then removed to dryness.

reactant | Tetrabutylphosphonium benzoate | C(C1=CC=CC=C1)(=O)[O-].C(CCC)[P+](CCCC)(CCCC)CCCC
reactant | benzoic acid | 0.8 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
product | tetrabutylphosphonium hydroxide | 4.7 g, 40% | [OH-].C(CCC)[P+](CCCC)(CCCC)CCCC | InChI=1S/C16H36P.H2O/c1-5-9-13-17(14-10-6-2,15-11-7-3)16-12-8-4;/h5-16H2,1-4H3;1H2/q+1;/p-1
